US06451814B1
1-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-hexan-1-one
1-{4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]-amino}ethyl)anilino]-1-piperidinyl}-1-hexanone (0.13 g, 0.168 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.058 g, 0.120 mmol).

reactant | 1-{4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]-amino}ethyl)anilino]-1-piperidinyl}-1-hexanone | 0.168 mmol, 0.13 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(CCCCC)=O)C=C2)O)C=C1 | C44H59N3O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-hexan-1-one | 0.120 mmol, 0.058 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(CCCCC)=O)COC1=CC=C(C=C1)O | C28H41N3O4
